US09212172B2
Bazedoxifene hydrochloride (50 g) and dimethylformamide (400 mL) are charged into a round bottomed flask, heated to about 70-75° C. and stirred for clear solution. The reaction mixture is cooled to 25-35° C. followed by addition of toluene (2500 mL), morpholine (50 mL) and water (1500 mL) and subsequently the mixture is stirred at room temperature for 12-24 hours. The solid formed is collected by filtration, washed with water (100 mL), toluene (100 mL) and dried under vacuum below 70° C. to afford crystalline bazedoxifene free base Form A of 99.65% HPLC purity.

reactant | Bazedoxifene hydrochloride | 50 g | CC1=C(N(C2=C1C=C(C=C2)O)CC3=CC=C(C=C3)OCCN4CCCCCC4)C5=CC=C(C=C5)O.Cl
reactant | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
reactant | toluene | 2500 mL | C1(=CC=CC=C1)C | C7H8
reactant | morpholine | 50 mL | N1CCOCC1 | C4H9NO
solvent | water | 1500 mL | O | H2O
product | bazedoxifene | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
